US09371359B2
The reaction was performed as in Reference Example 8 (5) by using (3S)-3-(tert-butoxycarbonylamino)-2-hydroxy-5-methyl hexanoic acid in place of (3S)-3-(tert-butoxycarbonylamino)-2-hydroxy-4-phenylbutyric acid, and by using 2-phenoxyethylamine in place of an aqueous ethylamine solution, thereby yielding ((1S)-2-hydroxy-1-(2-methylpropyl)-3-oxo-3-(2-phenoxyethyl)aminopropyl carbamic acid 1,1-dimethylethyl ester as a colorless oil.

reactant | (3S)-3-(tert-butoxycarbonylamino)-2-hydroxy-5-methyl hexanoic acid | C(C)(C)(C)OC(=O)N[C@H](C(C(=O)O)O)CC(C)C | C12H23NO5
reactant | 2-phenoxyethylamine | O(C1=CC=CC=C1)CCN | C8H11NO
reactant | ethylamine | C(C)N | C2H7N
product | (1S)-2-hydroxy-1-(2-methylpropyl)-3-oxo-3-(2-phenoxyethyl)aminopropyl carbamic acid 1,1-dimethylethyl ester | CC(C)(C)OC(N[C@H](C(C(NCCOC1=CC=CC=C1)=O)O)CC(C)C)=O | C20H32N2O5
